US04229449
A solution of 4-benzyl-2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine (5 g) in 99% EtOH (150 ml) and HCl (6 ml) was reduced (palladium-charcoal catalyst) for 4 hours at room temperature. The mixture was then filtered, dried under vacuum and separated on a silica gel column (mobile phase: CHCl3 :MeOH:NH4OH=170:30:2) to obtain 2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine (2.1 g; yield 54.7%) as a transparent oil .HCl m.p. 140°-170° C.

reactant | 4-benzyl-2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine | 5 g | C(C1=CC=CC=C1)N1CC(OCC1)C(C1=CC=CC=C1)OC1=C(C=CC=C1)OC | C25H27NO3
solvent | EtOH | 150 ml | CCO | C2H6O
solvent | HCl | 6 ml | Cl | ClH
catalyst | palladium-charcoal | [Pd] | Pd
product | 2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine | 2.1 g, yield 54.7% | COC1=C(OC(C2=CC=CC=C2)C2CNCCO2)C=CC=C1 | C18H21NO3
